US09290476B2
1-(4-(4-Fluorobenzoyl)piperidin-1-yl)ethanone
Acetic anhydride (2.32 g, 24.6 mmol) was added dropwise to a cold (0° C.) solution of (4-fluorophenyl)(piperidin-4-yl)methanone (5.00 g, 20.5 mmol) in DCM (33 mL) and triethylamine (10.0 mL, 71.8 mmol). The resulting mixture was removed from the ice bath after 5 minutes and stirred at room temperature for 2 hours. The reaction was then added to a mixture of 1 M aqueous K3PO4 (100 mL), H2O, and DCM was added. The layers were separated and the aqueous layer again extracted with DCM. The combined organic layers was dried (Na2SO4), filtered, concentrated under reduced pressure and chromatographed (CH2Cl2/EtOAc) to provide the title compound as a clear oil.

reactant | Acetic anhydride | 24.6 mmol, 2.32 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | (4-fluorophenyl)(piperidin-4-yl)methanone | 20.5 mmol, 5.00 g | FC1=CC=C(C=C1)C(=O)C1CCNCC1 | C12H14FNO
reactant | triethylamine | 71.8 mmol, 10.0 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 33 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-(4-Fluorobenzoyl)piperidin-1-yl)ethanone | FC1=CC=C(C(=O)C2CCN(CC2)C(C)=O)C=C1 | C14H16FNO2
